US09062015B2
FS301: 3-{4-[6-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]-piperazin-1-yl}propan-1-ol
88 mg (0.25 mmol) of 1-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]piperazine are irradiated in the microwave at 140° C. for 2 h with 42 μl (0.50 mmol) of 3-chloropropan-1-ol in 2 ml of ethanol and 70 μl (0.50 mmol) of triethylamine. The reaction mixture is evaporated and purified by means of preparative HPLC.

reactant | 1-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]piperazine | 0.25 mmol, 88 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCNCC1)C | C23H31N3
reactant | 3-chloropropan-1-ol | 0.50 mmol, 42 μl | ClCCCO | C3H7ClO
reactant | triethylamine | 0.50 mmol, 70 μl | C(C)N(CC)CC | C6H15N
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 3-{4-[6-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]-piperazin-1-yl}propan-1-ol | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCN(CC1)CCCO)C | C26H37N3O
